US04853476
N-[(S)2-[[bis(phenylmethoxy)phosphinyl]oxy]-1-oxo-3-phenylpropyl]β-alanine (phenylmethyl) ester;
N-[(S)2-[[hydroxy(phenylmethoxy)phosphinyl]oxy]-1-oxo-3-phenylpropyl]β-alanine, calcium salt thereof;

reactant | N-[(S)2-[[hydroxy(phenylmethoxy)phosphinyl]oxy]-1-oxo-3-phenylpropyl]β-alanine | OP(=O)(O[C@H](C(=O)NCCC(=O)O)CC1=CC=CC=C1)OCC1=CC=CC=C1 | C19H22NO7P
reactant | calcium | [Ca] | Ca
product | N-[(S)2-[[bis(phenylmethoxy)phosphinyl]oxy]-1-oxo-3-phenylpropyl]β-alanine (phenylmethyl) ester | C1(=CC=CC=C1)COC(CCNC([C@H](CC1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)=O | C33H34NO7P
